US04629737
N-[2-(4-Aminocarbonylmethoxyphenyl)-1-methylethyl]-2-methoxy-2-(3-chlorophenyl)ethanamine
The title compound was prepared, as an oil, from N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-methoxy-2-(3-chlorophenyl)ethanamine and 0.88 ammonia, by an analogous procedure to that described in Example 4. The product was used in Example 24 without further purification.

reactant | N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-methoxy-2-(3-chlorophenyl)ethanamine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)Cl)OC | C21H26ClNO4
reactant | ammonia | N | H3N
product | N-[2-(4-Aminocarbonylmethoxyphenyl)-1-methylethyl]-2-methoxy-2-(3-chlorophenyl)ethanamine | NC(=O)COC1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)Cl)OC | C20H25ClN2O3
